US05506256
B) (2S)-1-[N-(4-Chlorobenzylaminocarbonyl)-L-prolyl]-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine
By the same procedure as in Example 28-B), while using 4-chlorobenzylamine (0.71 g), trichloromethyl chloroformate (0.3 ml) and (2S)-1-[N-(tert-butoxycarbonyl)-L-prolyl]-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine (2.00 g), there was obtained 1.13 g of the title compound.

reactant | 4-chlorobenzylamine | 0.71 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | trichloromethyl chloroformate | 0.3 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | (2S)-1-[N-(tert-butoxycarbonyl)-L-prolyl]-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine | 2.00 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=CC=C2)O)CCC1 | C22H32N2O5
product | (2S)-1-[N-(4-Chlorobenzylaminocarbonyl)-L-prolyl]-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine | 1.13 g | ClC1=CC=C(CNC(=O)N2[C@H](C(=O)N3[C@@H](CCC3)C(COC3=CC=CC=C3)O)CCC2)C=C1 | C25H30ClN3O4
